US08008525B2
3-(Hydroxymethyl)-5-(methoxymethoxy)phenol
With ice cooling, to a solution of aluminum lithium hydride (1.80 g, 47.5 mmol) in tetrahydrofuran (50 mL) was added dropwise a solution of methyl 3-hydroxy-5-(methoxymethoxy)benzoate (7.74 g, 36.5 mmol) in tetrahydrofuran (50 mL), and the mixture was stirred at room temperature for 4 hours. To the reaction solution were successively added water (2 mL), a 15% aqueous sodium hydroxide solution (2 mL) and water (7 mL), and the mixture was further stirred for 2 hours. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=5:5) to give the title compound (4.46 g, yield 66%) as an oily matter.

reactant | aluminum lithium hydride | 47.5 mmol, 1.80 g | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | methyl 3-hydroxy-5-(methoxymethoxy)benzoate | 36.5 mmol, 7.74 g | OC=1C=C(C(=O)OC)C=C(C1)OCOC | C10H12O5
reactant | water | 2 mL | O | H2O
reactant | sodium hydroxide | 2 mL | [OH-].[Na+]
reactant | water | 7 mL | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-(Hydroxymethyl)-5-(methoxymethoxy)phenol | 4.46 g, yield 66% | OCC=1C=C(C=C(C1)OCOC)O | C9H12O4
